US08809369B2
A mixture of 2-(3-bromo-phenyl)-6-chloro-4,4-dimethyl-1,2,3,4-tetrahydro-quinoline-8-carboxylic acid methyl ester (1 g, 2.5 mmol), oxazolidin-2-one (230 mg, 2.63 mmol), copper(I) iodide (95 mg, 0.5 mmol), N,N′-dimethyl-ethane-1,2-diamine (0.11 mL, 1 mmol), and potassium carbonate (1.04 g, 7.5 mmol) in dimethyl sulfoxide (10 mL). The reaction mixture was stirred at 120° C. for 16 h. Then the reaction mixture cooled to room temperature. The reaction mixture was extracted with ethyl acetate (2×50 mL), washed with water (2×20 mL) and saturated aqueous ammonium chloride solution (2×20 mL), dried over anhydrous sodium sulfate and then concentrated in vacuo. Purification by Waters automated flash system (column: Xterra 30 mm×100 mm, sample manager 2767, pump 2525, detector: ZQ mass and UV 2487, solvent system: acetonitrile and 0.1% ammonium hydroxide in water) afforded 6-chloro-4,4-dimethyl-2-[3-(2-oxo-oxazolidin-3-yl)-phenyl]-1,2,3,4-tetrahydro-quinoline-8-carboxylic acid (0.8 g, 80%) as a white solid: MS (ESI) M+1=400.1.

reactant | 2-(3-bromo-phenyl)-6-chloro-4,4-dimethyl-1,2,3,4-tetrahydro-quinoline-8-carboxylic acid methyl ester | 2.5 mmol, 1 g | COC(=O)C=1C=C(C=C2C(CC(NC12)C1=CC(=CC=C1)Br)(C)C)Cl | C19H19BrClNO2
reactant | oxazolidin-2-one | 2.63 mmol, 230 mg | O1C(NCC1)=O | C3H5NO2
reactant | N,N′-dimethyl-ethane-1,2-diamine | 1 mmol, 0.11 mL | CNCCNC | C4H12N2
reactant | potassium carbonate | 7.5 mmol, 1.04 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethyl sulfoxide | 10 mL | CS(=O)C | C2H6OS
catalyst | copper(I) iodide | 0.5 mmol, 95 mg | [Cu]I
product | 6-chloro-4,4-dimethyl-2-[3-(2-oxo-oxazolidin-3-yl)-phenyl]-1,2,3,4-tetrahydro-quinoline-8-carboxylic acid | 0.8 g, 80% | ClC=1C=C2C(CC(NC2=C(C1)C(=O)O)C1=CC(=CC=C1)N1C(OCC1)=O)(C)C | C21H21ClN2O4
